US08247403B2
(1) tert-butyl 9-cyclopropyl-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate
A mixture of tert-butyl 9-bromo-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (200 mg, 0.609 mmol), cyclopropylboronic acid (78.5 mg, 0.914 mmol), saturated aqueous sodium carbonate solution (3 ml), and tetrakis(triphenylphosphine)palladium(0) (19.0 mg, 0.0172 mmol) in dimethoxyethane (5 ml) was stirred at 90° C. for 12 hr under a nitrogen atmosphere. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The extract was washed with water, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1) to give the desired product (70.0 mg, 39.8%) as an oil.

reactant | tert-butyl 9-bromo-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 0.609 mmol, 200 mg | BrC1=CC=CC=2CN(CCOC21)C(=O)OC(C)(C)C | C14H18BrNO3
reactant | cyclopropylboronic acid | 0.914 mmol, 78.5 mg | C1(CC1)B(O)O | C3H7BO2
reactant | sodium carbonate | 3 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | O | H2O
solvent | dimethoxyethane | 5 ml | C(OC)COC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.0172 mmol, 19.0 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl 9-cyclopropyl-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 70.0 mg, 39.8% | C1(CC1)C1=CC=CC=2CN(CCOC21)C(=O)OC(C)(C)C | C17H23NO3
